US06100246
(a) 2-Fluoro-6-hydroxybenzamide
2-Fluoro-6-hydoxybenzoic acid (20.0 g, 0.128 mol) and oxalyl chloride (22.3 ml, 0.256 mol) were dissolved in ethyl acetate (300 ml) together with N,N-dimethylformamide (DMF) (2 drops) and the mixture was stirred under an atmosphere of nitrogen for 20 h. The solvent was removed by distillation under reduced pressure leaving the crude acid chloride which was redissolved in ethyl acetate (300 ml) and cooled to 0° C. Concentrated aqueous ammonia (d 0.88, 50 ml) was added dropwise and the mixture was stirred for a further 2 h. The mixture was poured into aqueous sodium bicarbonate solution. The organic phase was separated and the aqueous phase extracted with ethyl acetate (2×200 ml). The combined organic phases were dried (MgSO4) and concentrated leaving the crude compound (10.2 g, 51.5%). Mass spectrum (-ve CI)m /z 154 (M+ -H) .

reactant | 2-Fluoro-6-hydoxybenzoic acid | 0.128 mol, 20.0 g | FC1=C(C(=O)O)C(=CC=C1)O | C7H5FO3
reactant | oxalyl chloride | 0.256 mol, 22.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 50 ml | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-Fluoro-6-hydroxybenzamide | 10.2 g, 51.5% | FC1=C(C(=O)N)C(=CC=C1)O | C7H6FNO2
